### PR TITLE
feat: BitVec.getElem_[sub|neg|sshiftRight'|abs]

### PR DESCRIPTION
**Pull request by tobiasgrosser**
This PR adds lemmas for extracting a given bit of a `BitVec` obtained via `sub`/`neg`/`sshiftRight'`/`abs`.

### CODE REVIEW

**Review by bollu — APPROVED** [review]
LGTM, since the changes are mechanical, and directly reference the statements from `getLsbD`.

File: src/Init/Data/BitVec/Bitblast.lean [hunk 1]
```diff
@@ -346,6 +346,10 @@ theorem getMsbD_sub {i : Nat} {i_lt : i < w} {x y : BitVec w} :
   · rfl
   · omega
 
+theorem getElem_sub {i : Nat} {x y : BitVec w} (h : i < w) :
+    (x - y)[i] = (x[i] ^^ ((~~~y + 1#w)[i] ^^ carry i x (~~~y + 1#w) false)) := by
+  rw [sub_toAdd, neg_eq_not_add, getElem_add]
```
Comment (kim-em) [inline src/Init/Data/BitVec/Bitblast.lean:351]: Not a big deal since the proof is so short, but I think it's a good principle to reuse existing proofs:
```suggestion
    simp [← getLsbD_eq_getElem, getLsbD_sub, h]
```

Comment (kim-em) [reply src/Init/Data/BitVec/Bitblast.lean:351]: Oh! Indeed exactly like you did below. :-)

**Comment by kim-em** [comment]
Otherwise LGTM, thanks!

The "Check PR body" CI check is failing, because we've added some new requirements for PRs so we can efficiently build the changelog and release notes.

It currently reports two things:
```
Error: feat/fix PR must have a `changelog-*` label
Error: feat/fix PR must have changelog summary starting with "This PR ..." as first line.
```

For `BitVec` PRs, the relevant label is always `changelog-library`. One of these labels is required for any `feat/fix` PR. If it's very minor, consider using either the `chore:` prefix for the PR title, or add the `changelog-no` label.

Second, every `feat:` or `fix:` PR (except those with `changelog-no`) must now have a paragraph in the PR description beginning `This PR`. This text is automatically included in our default release notes. e.g. for this PR I would write

"This PR adds lemmas for extracting a given bit of a `BitVec` obtain via `sub`/`neg`/`sshiftRight'`/`abs`."

(or something shorter).

File: src/Init/Data/BitVec/Lemmas.lean [hunk 2]
```diff
@@ -1480,6 +1480,12 @@ theorem getLsbD_sshiftRight' {x y: BitVec w} {i : Nat} :
       (!decide (w ≤ i) && if y.toNat + i < w then x.getLsbD (y.toNat + i) else x.msb) := by
   simp only [BitVec.sshiftRight', BitVec.getLsbD_sshiftRight]
 
+@[simp]
+theorem getElem_sshiftRight' {x y : BitVec w} {i : Nat} {h : i < w} :
+    (x.sshiftRight' y)[i] =
```
Comment (tobiasgrosser) [inline src/Init/Data/BitVec/Lemmas.lean:1485]:
```suggestion
theorem getElem_sshiftRight' {x y : BitVec w} {i : Nat} (h : i < w) :
    (x.sshiftRight' y)[i] =
```

**Comment by tobiasgrosser** [comment]
changelog-library

**Comment by tobiasgrosser** [comment]
@kim-em, I updated the PR description. I checked if there is a bot to add the new labels myself, but this does not seem to exist. Can you add the new label as you merge the PR?

**Comment by kim-em** [comment]
Ah, thanks, I'd forgotten about the label issue. I'll see if we can get that fixed, and in the meantime I can do it.
